US07432258B2
i) N-[1-(4-biphenylyl)-1-methyl-2-(1-pyrrolidinyl)ethyl]-2-(5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)-N-methylacetamide
BOP (133 mg, 0.30 mmol) was added to a mixture containing (5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetic acid (68 mg, 0.30 mmol), 2-(4-biphenylyl)-N-methyl-1-(1-pyrrolidinyl)-2-propanamine (74 mg, 0.25 mmol) and Et3N (0.042 ml, 0.30 mmol) in DMF (3 ml) and the resulting mixture was stirred at room temperature for 16 h. The crude reaction mixture was purified by preparative HPLC (Xterra PrepRP 30×100 mm, 45 mL/min, A: acetonitrile B: water, PH10, A: 50 to 90% over 12 min, UV detection at 214 nm) to give 17.5 mg (13.9%) as a white solid. MS(ES) m/e 504.4 [M+H]+

reactant | BOP | 0.30 mmol, 133 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetic acid | 0.30 mmol, 68 mg | ClC=1C=CC2=C(N(C(O2)=O)CC(=O)O)C1 | C9H6ClNO4
reactant | 2-(4-biphenylyl)-N-methyl-1-(1-pyrrolidinyl)-2-propanamine | 0.25 mmol, 74 mg | C1(=CC=C(C=C1)C(CN1CCCC1)(C)NC)C1=CC=CC=C1 | C20H26N2
reactant | Et3N | 0.30 mmol, 0.042 ml | CCN(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[1-(4-biphenylyl)-1-methyl-2-(1-pyrrolidinyl)ethyl]-2-(5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)-N-methylacetamide | C1(=CC=C(C=C1)C(CN1CCCC1)(C)N(C(CN1C(OC2=C1C=C(C=C2)Cl)=O)=O)C)C2=CC=CC=C2 | C29H30ClN3O3
